US06579993B2
1-(3-Dimethylamino-propyl)-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran-5-carbonitrile
A solution of 3-dimethylaminopropylmagnesium chloride (1.2 M in THF, 84 ml) was added to a cooled solution of 3-chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile (25.0 g) in a mixture of toluene (175 ml) and THF (50 ml) so that the temperature did not raise above −5° C. The mixture was stirred for 2 hours at 0° C. before water (100 ml) and saturated NH4Cl solution were added to adjust the pH to 9. The phases were separated and the aqueous phase was extracted twice with toluene (200 ml). The combined organic phases were washed with water (200 ml) and concentrated in vacuo to give a viscous oil (28,0 g, 95%). Spectral and analytical data were in accordance with the literature.

reactant | 3-dimethylaminopropylmagnesium chloride | 1.2 M, 84 ml | CN(CCC[Mg]Cl)C
reactant | 3-chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile | 25.0 g | ClCC=1C=C(C#N)C=CC1C(C1=CC=C(C=C1)F)=O | C15H9ClFNO
reactant | water | 100 ml | O | H2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 175 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(3-Dimethylamino-propyl)-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran-5-carbonitrile | 28,0 g, 95% | CN(CCCC1(OCC2=CC(=CC=C12)C#N)C1=CC=C(C=C1)F)C | C20H21FN2O
